datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:13])([H:14])[H:15],38.0744
[C:0]([C:1](=[C:2]([H:7])[H:8])[C:3]([O:4][H:11])([H:9])[H:10])([H:5])[H:6].[H:12][H:13]>>[C:0]([C:1](=[C:2]([H:7])[H:8])[C:3]([O:4][H:11])([H:9])[H:10])([H:5])([H:6])[H:13].[H:12],79.45416
[O:0][O:1][S:2][H:3]>>[O:0][O:1].[S:2][H:3],32.426
[C:0](=[N:1][H:3])[H:2]>>[C:0](#[N:1])[H:2].[H:3],101.549864
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])=[C:6]([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:13])[H:12])([H:10])[H:11],77.404
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27],0.8368
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:15])[H:16])([H:12])([H:13])[H:14],31.9171
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]([c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:19])[H:7])([H:5])[H:6].[S:12][c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24],17.5728
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[C:2](=[C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:0]([O:1])[H:8],64.1185448
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8].[O:5]([C:6]([H:16])([H:17])[H:18])[H:19],78.0237
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([S:1][C:5]([C:4]([H:7])([H:8])[H:9])([C:6]([H:11])([H:12])[H:13])[H:10])([H:2])[H:3],-10.0416
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])([H:4])[H:5],54.8522
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])=[C:10]([C:11]([H:24])([H:25])[H:26])[c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:10]([C:8]([C:7](=[C:6]([H:18])[H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:3],41.5471
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]1([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16],28.8278
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[H:21])[H:11],11.1294
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18],18.28408
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][C:10]([H:11])([H:12])[H:13],52.80208
[C:0]([H:1])([H:2])[H:3].[C:4](=[N:5][H:7])[H:6]>>[C:0]([H:1])([H:2])([H:3])[C:4](=[N:5][H:7])[H:6],0.0
